US05679696
A solution of 3-cyclopentyloxy-4-methoxybenzaldehyde (5 g) and 2-chloroaniline (2.5 mL) in toluene (60 mL) is heated at reflux under a Dean and Stark water trap for 3 hours. After concentration, the residue is dissolved in methanol (60 mL) and the stirred solution is treated at 0° C. with sodium cyanoborohydride (2.1 g). The temperature is allowed to rise to room temperature, and the stirring is continued for 2 hours, before dilution with ethyl acetate (100 mL) and washing with saline (100 mL). The organic layer is dried and concentrated, to give a brown oil. This oil is subjected to flash chromatography on silica gel, eluting with a mixture of ethyl acetate and hexane (1:4v/v), to give N-(2-chlorophenyl)-3-cyclopentyloxy-4-methoxybenzylamine (0.64 g), in the form of an oil. [Elemental analysis: C,69.5; H,6.8; N,4.1; Cl,10.6%; calculated: C,68.8; H,6.7; N,3.2; Cl,10.7%].

reactant | 3-cyclopentyloxy-4-methoxybenzaldehyde | 5 g | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
reactant | 2-chloroaniline | 2.5 mL | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | water | O | H2O
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-chlorophenyl)-3-cyclopentyloxy-4-methoxybenzylamine | 0.64 g | ClC1=C(C=CC=C1)NCC1=CC(=C(C=C1)OC)OC1CCCC1 | C19H22ClNO2
